US06479480B1
5-Fluoro-2-iodoaniline (30 g, 126 mmol) and 3-fluorophenylacetylene (20 g, 166 mmol) were dissolved in diethylamine (500 ml) and the mixture purged with nitrogen for 10 min. Tetrakis(triphenylphosphine)palladium (2 g) and copper(I) iodide (0.4 g) were added and the mixture stirred at room temperature for 15 h. The solvent was removed in vacuo and the residue partitioned between diethyl ether (500 ml) and water (500 ml), the organic layer was separated and washed with water (2×500 ml), saturated sodium chloride (200 ml), dried over MgSO4, filtered through a short plug of Florisil and evaporated in vacuo. The solid was dissolved in anhydrous DMF (500 ml), copper(I) iodide (12 g, 63 mmol) and calcium carbonate (12.6 g, 126 mmol) added and the mixture heated at 120° C. under an atmosphere of nitrogen for 48 h. The mixture was filtered through hyflo and the filtrate evaporated in vacuo. The residue was partitioned between ethyl acetate (500 ml) and water (500 ml), the organic layer was separated and washed with water (2×500 ml) and saturated sodium chloride (100 ml), dried over MgSO4 and evaporated in vacuo. The residue was triturated with a mixture of diethyl ether and hexane, the solid filtered and dried in vacuo to afford 25 g (109 mmol; 87%) of 2-(3-fluorophenyl)-6-fluoroindole as a brown solid. δH (360 MHz; CDCl3) 6.78 (1H, d, J 1.8, indole H3), 6.88 (1H, m, aromatic), 6.99 (1H, m, aromatic), 7.05 (1H, dd, J 9.5 and 2.2, aromatic), 7.29 (1H, dd, J 8.6 and 1.0, aromatic), 7.36 (2H, m, aromatics), 7.51 (1H, dd, J 8.6 and 5.3, indole H4), 8.37 (1H, br s, NH).

reactant | 5-Fluoro-2-iodoaniline | 126 mmol, 30 g | FC=1C=CC(=C(N)C1)I | C6H5FIN
reactant | 3-fluorophenylacetylene | 166 mmol, 20 g | FC=1C=C(C=CC1)C#C | C8H5F
reactant | calcium carbonate | 126 mmol, 12.6 g | C([O-])([O-])=O.[Ca+2]
solvent | diethylamine | 500 ml | C(C)NCC | C4H11N
catalyst | copper(I) iodide | 63 mmol, 12 g | [Cu]I
product | 2-(3-fluorophenyl)-6-fluoroindole | 109 mmol, 25 g, 87% | FC=1C=C(C=CC1)C=1NC2=CC(=CC=C2C1)F | C14H9F2N
